US04478967
N-(2-Nitrobenzyl)octadecylamine (Compound 3)
Octadecylamine (13.5 g, 0.05 mol) was dissolved in warm absolute ethanol (300 ml) and 2-nitrobenzyl chloride was added. After three days at room temperature, the mixture was cooled and the unreacted octadecylamine which crystallized was removed by filtration. The filtrate was evaporated to dryness and the residue dissolved in dilute aqueous hydrochloric acid. Ether extraction of the acidic solution removed unreacted 2-nitrobenzyl chloride. The aqueous layer was made basic with potassium hydroxide solution and the resulting mixture was extracted with ether. The dried ether layer was evaporated to yield an oil which crystallized. Crystallization from methanol gave pure product (0.8 g, m.p. 53°-56° C.).

reactant | Octadecylamine | 0.05 mol, 13.5 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | 2-nitrobenzyl chloride | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-(2-Nitrobenzyl)octadecylamine | 0.8 g | [N+](=O)([O-])C1=C(CCCCCCCCCCCCCCCCCCCN)C=CC=C1 | C25H44N2O2
